US07176224B2
3-(4-Benzyloxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester:
3-(4-Benzyloxy-phenyl)-3-hydroxy-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester (7.62 g, 17.5 mmol) in anhydrous CH2Cl2 (150 mL) was cooled to 0° C. and treated with pyridine (14 mL, 174.6 mmol, d=0.987). Trifluoroacetic anhydride (7.4 mL, 52.4 mmol, d=1.487) was added dropwise and the mixture was stirred for 2 h, gradually warming to ambient temperature, The reaction mixture was diluted with diethyl ether and washed with 1N HCl, then water. The organic layer was dried over Na2SO4 and concentrated in vacuo to provide the titled compound (8.77 g, 100%) which was used without purification.

reactant | 3-(4-Benzyloxy-phenyl)-3-hydroxy-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | 17.5 mmol, 7.62 g | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=C(C=CC=C1)OC)=O | C26H28O6
reactant | pyridine | 174.6 mmol, 14 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 52.4 mmol, 7.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-Benzyloxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester | 8.77 g, 100% | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=C(C=CC=C1)OC)=O | C28H27F3O7
